US05719141
a) 2(R,S)-Allyloxymethyl-3,4-dihydro-2H-1,4-benzoxazine
0.8 ml of iododtrimethylsilane is added to a solution of 1.37 g of N-benzyloxycarbonyl-2(R,S)allyloxymethyl-3,4-dihydro-2H-1,4-benzoxazine in 25 ml of methylene chloride under argon. The reaction mixture is stirred at room temperature for 2 h, 10 ml of methanol are then added and the mixture is concentrated. The residue is extracted twice with 50 ml of a 10:1 mixture of hexane and diethyl ether and then dissolved in ethyl acetate, and the solution is washed with a 1N sodium carbonate solution and saturated sodium chloride solution. The crude product is purified by means of FC (100 g of silica gel, mobile phase D). This gives the pure title compound: Rf (D)=0.17.

reactant | N-benzyloxycarbonyl-2(R,S)allyloxymethyl-3,4-dihydro-2H-1,4-benzoxazine | 1.37 g | C(C1=CC=CC=C1)OC(=O)N1CC(OC2=C1C=CC=C2)COCC=C | C20H21NO4
reactant | methanol | 10 ml | CO | CH4O
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 2(R,S)-Allyloxymethyl-3,4-dihydro-2H-1,4-benzoxazine | C(C=C)OCC1OC2=C(NC1)C=CC=C2 | C12H15NO2
